US04699651
6-Methylcinnoline-4-carboxylic acid (51)
51 was prepared, as a tan solid, m.p.: 179°-180° C., from 2-amino-5-methylbenzoic acid, by the respective procedures described in Example 49 for preparing 49 from 2-amino-3-methylbenzoic acid: via methyl 2-amino-5-methylbenzoate (a solid, m.p.: 62°-63° C.), (2-amino-5-methylphenyl)dimethylcarbinol (an oil, b.p.: 100° C./0.1 Torr.), 2-(2-amino-5-methylphenyl)propene (a liquid, b.p.: 87°-90° C./0.5 Torr.), 4,6-dimethylcinnoline (a solid, m.p.: 75°-76° C.), and 6-methyl-4-(trichloromethyl)cinnoline (green crystals, m.p.: 132°-133° C., with decomposition).

reactant | 2-amino-5-methylbenzoic acid | NC1=C(C(=O)O)C=C(C=C1)C | C8H9NO2
reactant | 2-amino-3-methylbenzoic acid | NC1=C(C(=O)O)C=CC=C1C | C8H9NO2
reactant | methyl 2-amino-5-methylbenzoate | NC1=C(C(=O)OC)C=C(C=C1)C | C9H11NO2
reactant | (2-amino-5-methylphenyl)dimethylcarbinol | NC1=C(C=C(C=C1)C)C(O)(C)C | C10H15NO
reactant | 2-(2-amino-5-methylphenyl)propene | NC1=C(C=C(C=C1)C)C(=C)C | C10H13N
reactant | 4,6-dimethylcinnoline | CC1=CN=NC2=CC=C(C=C12)C | C10H10N2
reactant | 6-methyl-4-(trichloromethyl)cinnoline | CC=1C=C2C(=CN=NC2=CC1)C(Cl)(Cl)Cl | C10H7Cl3N2
product | 6-Methylcinnoline-4-carboxylic acid | CC=1C=C2C(=CN=NC2=CC1)C(=O)O | C10H8N2O2
